US04828754
Three grams of said 3-fluoro-4-methoxybiphenyl was dissolved in 14 ml of carbon disulfide, and 1.17 g of acetyl chloride and 2.36 g of aluminum chloride were added, followed by stirring the mixture for 10 hours. Twenty milliliters of 10% hydrochloric acid and then 5 ml of water were added, and the precipitate was filtered and washed with water. The resulting crude crystals were recrystallized from ethanol to obtain 2.75 g of 3'-fluoro-4'-methoxy-4-acetylbiphenyl (yield 76%).

reactant | 3-fluoro-4-methoxybiphenyl | Three grams | FC=1C=C(C=CC1OC)C1=CC=CC=C1 | C13H11FO
reactant | acetyl chloride | 1.17 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 2.36 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Twenty milliliters | Cl | ClH
solvent | carbon disulfide | 14 ml | C(=S)=S | CS2
solvent | water | 5 ml | O | H2O
product | 3'-fluoro-4'-methoxy-4-acetylbiphenyl | 2.75 g, yield 76% | FC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(C)=O | C15H13FO2
